US07214673B2
(S)-2-Methyl-10-[3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine (S)-2-(2-naphthalen-1-yl-ethyl)-piperazine (686 mg, 2.85 mmol), 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine (654 mg, 2.85 mmol), toluene (5.7 mL), DMSO (1.4 mL) and glacial acetic acid (0.5 mL). Add N-ethyldiisopropylamine (2.0 mL). Heat at 105° C. After 48 h, cool to ambient temperature and dilute with ethyl acetate and water. Extract with ethyl acetate. Wash the extracts with water and brine, dry over sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (0.5%–5%) as the eluent to give 183 mg. Purify again by radial silica gel chromatography using a 2 mm plate and 2N ammonia in methanol-methylene chloride (1%–2%) as the eluent to give 60 mg (5%) of the title compound: mass spectrum (ion spray): m/z=453 (M+1), 451 (M−1). Analysis calculated for C28H28N4S.0.2H2O: C, 73.71; H, 6.27; N, 12.28. Found: C, 73.37; H, 6.19; N, 12.00.

reactant | (S)-2-(2-naphthalen-1-yl-ethyl)-piperazine | 2.85 mmol, 686 mg | C1(=CC=CC2=CC=CC=C12)CC[C@@H]1NCCNC1 | C16H20N2
reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine | 2.85 mmol, 654 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | C12H11N3S
reactant | toluene | 5.7 mL | C1(=CC=CC=C1)C | C7H8
reactant | N-ethyldiisopropylamine | 2.0 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | DMSO | 1.4 mL | CS(=O)C | C2H6OS
product | (S)-2-Methyl-10-[3-(2-naphthalen-1-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 60 mg, 5% | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC1=CC=CC=C31 | C28H28N4S
